US04347369
Trans-1,2-diamino-7-bromo-1,2,3,4-tetrahydronaphthalene (6.75 g, 28.0 m mol) was dissolved in ethanol (70 ml) and carbon disulfide (1.9 ml, 31.7 m mol) was added to the solution. After stirring at room temperature for 20 minutes, they were heated under reflux for 5.5 hours. The reaction mixture was cooled in an ice bath and crystals precipitated were collected by filtration, whereby trans-8-bromo-3a,4,5,9b-tetrahydronaphth[1,2-d]imidazoline-2-thione (5.57 g) was obtained in 70% yield. The crystals were recrystallized from methanol-acetonitrile to give pale-yellow crystals melting at 259.5°-260.5° C. (decomposition). The product gave the following data on spectroscopy and elemental analysis.

reactant | Trans-1,2-diamino-7-bromo-1,2,3,4-tetrahydronaphthalene | 6.75 g | N[C@H]1[C@@H](CCC2=CC=C(C=C12)Br)N | C10H13BrN2
reactant | carbon disulfide | 1.9 ml | C(=S)=S | CS2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | trans-8-bromo-3a,4,5,9b-tetrahydronaphth[1,2-d]imidazoline-2-thione | 5.57 g, 70% yield | BrC1=CC=C2CC[C@@H]3[C@H](NC(N3)=S)C2=C1 | C11H11BrN2S
